US03985376
75 parts of p-dimethylaminobenzaldehyde and 125 parts of acetophenone together with 500 parts of ammonium acetate are heated in 1,000 parts of glacial acetic acid for four hours under reflux. The precipitate deposited after standing for twelve hours at room temperature is suction filtered and recrystallized from 500 parts of ethanol. 57 parts of a pale yellow compound (2,6-diphenyl-4-(4'-dimethylaminophenyl)-pyridine) is obtained which has a melting point of 128° to 129° C.

reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,6-diphenyl-4-(4'-dimethylaminophenyl)-pyridine | C1(=CC=CC=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)N(C)C)C1=CC=CC=C1 | C25H22N2
